US09340538B2
Step A: Ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
1,3,4-thiadiazole-2-carboximidamide hydrochloride (1.43 g, 8.69 mmol) was reacted with 2-chloro-4-fluorobenzaldehyde (1.38 g, 8.69 mmol) and ethyl 3-oxobutanoate (1.36 g, 10.5 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (1.82 g, 55%). The compound was characterized by the following spectroscopic data:

reactant | 1,3,4-thiadiazole-2-carboximidamide hydrochloride | 8.69 mmol, 1.43 g | Cl.S1C(=NN=C1)C(N)=N
reactant | 2-chloro-4-fluorobenzaldehyde | 8.69 mmol, 1.38 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | ethyl 3-oxobutanoate | 10.5 mmol, 1.36 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.82 g, 55% | ClC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=NN1 | C16H14ClFN4O2S
